US04249931
Preparation of 2-p-chlorophenyl-2(2,3-dibromopropionyl)5-methoxymethyl oxazolidine
To 20.8 milliliters of 25 percent w/v, p-chlorophenyl-5-methoxymethyl oxazolidine solution in 50 milliliters of benzene was added 5 grams of 2,3-dibromopropionyl chloride. To this solution was added 1.6 grams of 50% sodium hydroxide. After washing with water, drying and removal of the benzene in vacuo, there was obtained 4.8 grams of the title compound, nD30 1.5478. Analytical data supports the structure.

reactant | p-chlorophenyl-5-methoxymethyl oxazolidine | ClC1=CC=C(C=C1)C1OC(CN1)COC | C11H14ClNO2
reactant | 2,3-dibromopropionyl chloride | 5 grams | BrC(C(=O)Cl)CBr | C3H3Br2ClO
reactant | sodium hydroxide | 1.6 grams | [OH-].[Na+]
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 2-p-chlorophenyl-2(2,3-dibromopropionyl)5-methoxymethyl oxazolidine | 4.8 grams | ClC1=CC=C(C=C1)C1(OC(CN1)COC)C(C(CBr)Br)=O | C14H16Br2ClNO3
